data/specific_train_final.csv
"[H:20][CH2:21]C(C)(C)OCC.[OH:10]>>[H:20][OH:10].CCOC(C)(C)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:5][C:4]([CH2:3][O:2][OH:1])([CH:6][O:7][OH:8])[O:9][OH:10].[C:11]=[O:12]>>[CH3:5][C:4]([CH2:3][O:2][OH:1])([CH:6]=[O:7])[O:9][OH:10].[C:11]=[O:12].[OH:8] 6-6,7; 7,8-6,7; 7,8-8",Room Temperature,Propagation,retroaddition
"[H:20][O:21][O].CC(C)(CCO[O:10])O>>[H:20][O:10]OCCC(C)(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=CCC(CC1)[C:10](C)CO.[O:20][O]>>CC1=CCC(CC1)[C:10](C)(CO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(COCOO[O:20][N+:21](=O)[O-])O>>CC(COCOO[O:20])O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:20]1=[CH:21]CC2CC1C2(C)C.[N+](=O)([O-])[O:10]>>CC1(C2C[CH:21][C:20](C1C2)(C)[O:10][N+](=O)[O-])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:10][CH2:9][CH2:8][C:7]1=[CH:6][CH:5]=[CH:4][CH:3]=[C:2]1[OH:1].[OH:11]>>[CH3:10][CH2:9][CH2:8][C:7]1=[CH:6][CH:5]=[CH:4][CH:3]([C:2]1[OH:1])[OH:11] 11-11,3; 2,3-11,3; 2,3-2",Room Temperature,Propagation,addition
"CC(C)(C(CO)[O:20][O:21][O])O>>CC(C)(C(CO)[O:20])O.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCCCCCCC(CC)O[O:20].[N+](=O)([O-])[O:10]>>CCCCCCCCCC(CC)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCC(CCO[O:10])O>>[H:20][O:10]OCCC(CC)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC[CH:10]C(C)O.[O:20][O]>>CC[CH:10](C(C)O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C1CCC(=CC1)CO)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)(C1CCC(=CC1)CO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C=C)(C(=O)OO)[O:20][O:21]N=O>>CC(C=C)(C(=O)OO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC12C=CC(C(C1O)OO2)[O:20].[N+:10](=O)[O-]>>CCCC12C=CC(C(C1O)OO2)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C)[O:20][O:21][O])O[N+](=O)[O-]>>CC(C(C)O[N+](=O)[O-])[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCOC(C(C)O)OO[O:20][N+:21](=O)[O-]>>CCCCOC(C(C)O)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)OC(C)(C)C[O:20].[N+:10](=O)[O-]>>CC(=O)OC(C)(C)C[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][CH:22]C1(C(O1)(C)C=CC=O)CC.[O:10][O]>>[H:20][O:10][O].CCC1(C(O1)(C)C=CC=O)[CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CC(CC(=O)C)[O:20].[N+:10](=O)[O-]>>CC(CC(=O)C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C2CCC(C1C2)(C[O:20][O:21]N=O)O)C>>CC1(C2CCC(C1C2)(C[O:20])O)C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1(C2CCC(C1C2)(CO[N+](=O)[O-])O[O:20])C.[N:10]=O>>CC1(C2CCC(C1C2)(CO[N+](=O)[O-])O[O:20][N:10]=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
CCC12C(C=CC(C1O)(OO2)C)[O].[O:20][N:10]=O>>CCC12C(C=CC(C1O)(OO2)C)[O].[O-:20][N+:10]=O 10-20,Room Temperature,Propagation,ha resonance
"CC(C)(C)C[O:21][O:20][O].[N+](=O)[O-]>>CC(C)(C)C[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO[N+](=O)[O-])(C(COO)O)O[O:20].[N:10]=O>>CC(CO[N+](=O)[O-])(C(COO)O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C1CCC(=CC1)CO)O[O:20].[N:10]=O>>CC(C)(C1CCC(=CC1)CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)C(CO[O:20])O.[N+](=O)([O-])[O:10]>>CC(C)C(CO[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(CCO)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)(CCO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C)COO[O:20][N+:21](=O)[O-]>>CCCC(C)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]C(C)CCC.[Cl:10]>>[H:20][Cl:10].CCCC(C)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(C)[O:20][O:21][O]>>CCCC(C)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(=O)C[CH:10]C.[O:20][O]>>CCC(=O)C[CH:10](C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C)[O:20].[N+:10](=O)[O-]>>CCCC(C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=CC[O:20][O:21]N=O)CCl>>CC(=CC[O:20])CCl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH2:10]C(Cl)(Cl)Cl.[O:20][O]>>[CH2:10](C(Cl)(Cl)Cl)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1CCC(C(C1)O)O[O:20].[N+](=O)([O-])[O:10]>>C1CCC(C(C1)O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
